US05559111
5(S)-Amino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-(3-hydroxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-octanoic acid N-(2-morpholinoethyl)amide hydrochloride
30 mg of 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-(3-hydroxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-octanoic acid (N-2-morpholino-ethyl)amide are dissolved in 1.5 ml of a 4N solution, cooled to 0° C., of hydrochloric acid in dioxane, and the mixture is then stirred for 10 minutes at 0° C. The reaction mixture is concentrated to dryness by evaporation under reduced pressure and at room temperature. Purification of the residue by means of FC (5 g of silica gel, dichloromethane/methanol=98:2) yields the title compound: Rf (dichloromethane/methanol=8:2)=0.20; Rt =10.43 minutes; FAB-MS (M+H)+ =610.

reactant | 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-(3-hydroxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-octanoic acid (N-2-morpholino-ethyl)amide | 30 mg | O1CCN(CC1)CCNC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OCCCO)OCCCOC)C(C)C)NC(=O)OC(C)(C)C)O)C(C)C)=O | C38H67N3O9
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5(S)-Amino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-(3-hydroxypropyloxy)-3-(3-methoxypropyloxy)-phenyl]-octanoic acid N-(2-morpholinoethyl)amide hydrochloride | Cl.O1CCN(CC1)CCNC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OCCCO)OCCCOC)C(C)C)N)O)C(C)C)=O | InChI=1S/C33H59N3O7.ClH/c1-24(2)27(20-26-8-9-31(42-16-6-14-37)32(21-26)43-17-7-15-40-5)22-29(34)30(38)23-28(25(3)4)33(39)35-10-11-36-12-18-41-19-13-36;/h8-9,21,24-25,27-30,37-38H,6-7,10-20,22-23,34H2,1-5H3,(H,35,39);1H/t27-,28-,29-,30-;/m0./s1
